US07737166B2
N-{2-[Acetyl(methyl)amino]ethyl}-4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (#104)
Under nitrogen atmosphere at 140 to 150° C., a dimethyl sulfoxide (1 ml) solution of (3S)-3-(dimethylamino)pyrrolidin (32 μl, 256 μmol) was added to a dimethyl sulfoxide (3 ml) solution of N-{2-[acetyl(methyl)amino]ethyl}-4-cyano-N,5-dimethyl-7-fluoro-6-phenyl-1,3-benzoxazole-2-carboxamide (I-204) (87 mg, 213 μmol) and triethylamine (39 μl, 277 μmol), followed by stirring at the same temperature for 45 minutes. After cooling, the solvent was evaporated away under reduced pressure, the residue was dissolved in chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, then filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (10:1, v/v) gave the entitled compound (47 mg, 44%) as an amorphous substance.

reactant | (3S)-3-(dimethylamino)pyrrolidin | 256 μmol, 32 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | N-{2-[acetyl(methyl)amino]ethyl}-4-cyano-N,5-dimethyl-7-fluoro-6-phenyl-1,3-benzoxazole-2-carboxamide | 213 μmol, 87 mg | C(C)(=O)N(CCN(C(=O)C=1OC2=C(N1)C(=C(C(=C2F)C2=CC=CC=C2)C)C#N)C)C | C22H21FN4O3
reactant | triethylamine | 277 μmol, 39 μl | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | N-{2-[Acetyl(methyl)amino]ethyl}-4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 47 mg, 44% | C(C)(=O)N(CCN(C(=O)C=1OC2=C(N1)C(=C(C(=C2N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C)C#N)C)C | C28H34N6O3
